US06730668B2
Preparation of 2-[2-(4-fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester (38):
2-[2-(4-Fluorophenyl)acetyl]-4-oxo-pyrazolidine-1-carboxylic acid benzyl ester, 11, (1.0 g, 2.81 mmol) is dissolved in THF (30 mL) and the solution cooled to −78° C. A 5.0 M solution of borane-dimethyl sulfide complex in ether (1.2 mL, 5.61 mmol) is added dropwise. After 1 hour at −78° C., the reaction is quenched by slow addition of NH4Cl (sat. aq.) (10 mL). The cooling bath is then removed, and the mixture allowed to warm to room temperature with vigorous stirring. The THF is removed in vacuo and the residue diluted with water (50 mL). The mixture is extracted with ethyl acetate (2×100 mL), dried, filtered and concentrated in vacuo to give a yellow oil which is purified over silica (1:1 to 1:2 hexane/ethyl acetate to 100% ethyl acetate) to afford 731 mg (73% yield) as a clear, viscous oil.

reactant | 2-[2-(4-Fluorophenyl)acetyl]-4-oxo-pyrazolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)=O)C(CC1=CC=C(C=C1)F)=O | C19H17FN2O4
reactant | ether | 5.61 mmol, 1.2 mL | CCOCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[2-(4-fluorophenyl)acetyl]-4-hydroxy-pyrazolidine-1-carboxylic acid benzyl ester | 73% yield | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)O)C(CC1=CC=C(C=C1)F)=O | C19H19FN2O4
